US08530480B2
To a solution of 1-(3-bromo-5-cyanophenyl)piperidine-4-carboxylic acid (1.1 g, 3.6 mmol) in toluene (4 mL) and methanol (2 mL) was added TMSCHN2 (2 M in Et2O, 3.5 mL, 7.0 mmol) dropwise at room temperature. After 1 h, the reaction was quenched with acetic acid (˜0.1 mL), diluted with EtOAc and washed with saturated aqueous NaHCO3. The organic layer was separated, dried (MgSO4), and concentrated to give methyl 1-(3-bromo-5-cyanophenyl)piperidine-4-carboxylate in ˜100% yield.

reactant | 1-(3-bromo-5-cyanophenyl)piperidine-4-carboxylic acid | 3.6 mmol, 1.1 g | BrC=1C=C(C=C(C1)C#N)N1CCC(CC1)C(=O)O | C13H13BrN2O2
reactant | TMSCHN2 | 7.0 mmol, 2 M, 3.5 mL | [Si](C)(C)(C)C=[N+]=[N-] | C4H10N2Si
solvent | toluene | 4 mL | C1(=CC=CC=C1)C | C7H8
solvent | methanol | 2 mL | CO | CH4O
product | methyl 1-(3-bromo-5-cyanophenyl)piperidine-4-carboxylate | ˜100% yield | BrC=1C=C(C=C(C1)C#N)N1CCC(CC1)C(=O)OC | C14H15BrN2O2
